US07282588B2
1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
A solution of 4-bromo-1-ethyl-3-(4-nitrophenyl)-1H-pyrazole (27 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (30 mmol), potassium acetate (81 mmol), and bis(triphenylphosphine)palladium(II) dichloride (1.08 mmol) in 1,4-dioxane (30 mL) was stirred for 3 h at 100° C. in a sealed tube. After the reaction cooled to room temperature it was diluted with ethyl acetate (200 mL), filtered though a silica-gel plug and concentrated. Purification of the residue by Gilson reverse phase HPLC provided the title product as an off-white powder (42%). ESMS [M+H]+: 344.2

reactant | 4-bromo-1-ethyl-3-(4-nitrophenyl)-1H-pyrazole | 27 mmol | BrC=1C(=NN(C1)CC)C1=CC=C(C=C1)[N+](=O)[O-] | C11H10BrN3O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 30 mmol | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 81 mmol | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.08 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 42% | C(C)N1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C17H22BN3O4
